US05214037
To a solution of 5-p-methoxybenzylthiotetrazole (7.00 g : 31.5 mMol.) in methanol (150 ml) is added under ice cooling a solution of diazomethane in ether (produced from 14 g of N-nitrosomethylurea), and the mixture is stirred for 1 hour and then concentrated. The residue is purified by Lobar column chromatography (toluene : ethyl acetate=5: 1) to give 5-p-methoxybenzylthio-2-methyltetrazole 4.86 g :

reactant | 5-p-methoxybenzylthiotetrazole | 31.5 mMol, 7.00 g | COC1=CC=C(CSC2=NN=NN2)C=C1 | C9H10N4OS
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 150 ml | CO | CH4O
solvent | ether | 14 g | CCOCC | C4H10O
product | 5-p-methoxybenzylthio-2-methyltetrazole | 4.86 g | COC1=CC=C(CSC=2N=NN(N2)C)C=C1 | C10H12N4OS
